Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
incarcerated parastomal hernia 
 
Major Surgical or Invasive Procedure:
Laparoscopic reduction of parastomal hernia and
translocation of the ileostomy with mesh reinforcement.

 
History of Present Illness:
Per colorectal surgery note in the emergency department:

___ PMHx of UC s/p total proctocolectomy with end ileostomy
(___) with development of subsequent parastomal hernia who
presents to the ED with significant abdominal pain, nausea, with
CT concerning for incarcerated parastoma hernia. Patient states
that she first noticed a ___ bulge ___ years after her
initial operation. She only states that she experienced one
likely obstructive episode that self resolved with manual
reduction. She previously saw Dr. ___ operative repair of
hernia, but the ultimate decision per patient was to 
conservative
observation. However, Ms. ___ states that 24 hours ago she
started to experience acute onset of abdominal pain, nausea, 1
episode of emesis. She presented to the ED where a CT scan with
PO/IV contrast demonstrated dilated stomach, edema within
parastomal hernia, as well as mesenteric stranding concerning 
for
incarceration. 

 
Past Medical History:
Ulcerative colitis vs. Crohn (steroid dependence, pseudopolyps 
in sigmoid colon), arthritis (prednisone, remicade)

PSH: none

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
D/C PE

General: doing well, tolerating a regular diet, pain controlled, 
ambulating
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain or shortness of breath
Abd: ilesotmy pink with output, surgical incisions intact 
without signs of infection
 
Pertinent Results:
___ 06:40AM BLOOD WBC-7.7 RBC-3.97 Hgb-12.4 Hct-36.7 MCV-92 
MCH-31.2 MCHC-33.8 RDW-12.9 RDWSD-43.8 Plt ___
___ 07:16AM BLOOD WBC-7.3 RBC-3.37* Hgb-10.6* Hct-31.2* 
MCV-93 MCH-31.5 MCHC-34.0 RDW-13.3 RDWSD-45.2 Plt ___
___ 06:45AM BLOOD WBC-12.6* RBC-3.80* Hgb-11.8 Hct-34.9 
MCV-92 MCH-31.1 MCHC-33.8 RDW-13.4 RDWSD-45.4 Plt ___
___ 05:53PM BLOOD WBC-21.6* RBC-4.33 Hgb-13.7 Hct-41.1 
MCV-95 MCH-31.6 MCHC-33.3 RDW-13.3 RDWSD-46.6* Plt ___
___ 07:00AM BLOOD WBC-14.2* RBC-3.95 Hgb-12.3 Hct-36.2 
MCV-92 MCH-31.1 MCHC-34.0 RDW-13.2 RDWSD-44.8 Plt ___
___ 08:48PM BLOOD WBC-9.9 RBC-4.43 Hgb-13.7 Hct-38.5 MCV-87 
MCH-30.9 MCHC-35.6 RDW-13.1 RDWSD-41.0 Plt ___
___ 06:40AM BLOOD Glucose-82 UreaN-6 Creat-0.6 Na-141 K-4.2 
Cl-105 HCO3-26 AnGap-10
___ 07:00AM BLOOD Glucose-88 UreaN-5* Creat-0.6 Na-141 
K-4.2 Cl-105 HCO3-26 AnGap-10
___ 07:16AM BLOOD Glucose-91 UreaN-4* Creat-0.7 Na-141 
K-3.6 Cl-107 HCO3-26 AnGap-8*
___ 06:45AM BLOOD Glucose-113* UreaN-5* Creat-0.6 Na-138 
K-4.1 Cl-104 HCO3-25 AnGap-9*
___ 05:53PM BLOOD Glucose-131* UreaN-5* Creat-0.7 Na-139 
K-3.8 Cl-103 HCO3-22 AnGap-14
___ 07:00AM BLOOD Glucose-122* UreaN-9 Creat-0.6 Na-140 
K-4.4 Cl-104 HCO3-24 AnGap-12
___ 06:40AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.0
___ 07:00AM BLOOD Calcium-8.1* Phos-2.7 Mg-1.9
___ 07:16AM BLOOD Calcium-7.7* Phos-2.2* Mg-2.1
___ 06:45AM BLOOD Calcium-7.7* Phos-2.8 Mg-2.5
___ 05:53PM BLOOD Calcium-7.8* Phos-3.3 Mg-2.3
___ 07:00AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.7
___ 08:48PM BLOOD Albumin-4.3

 CT ABD & PELVIS WITH CONTRAST Study Date of ___ 11:41 ___
IMPRESSION: 
  
  
1. Right parastomal hernia contains obstructed small bowel loops 
and 
surrounding edema which should be correlated for 
incarceration/strangulation. 
2. Mildly dilated intrahepatic peripheral biliary ducts.  
Consider nonemergent 
MRCP for further evaluation given history of ulcerative colitis. 

3. Right lower lobe pulmonary airspace disease may reflect 
aspiration or 
pneumonia. 

 
Brief Hospital Course:
Mrs. ___ presented to the Emergency Department with an 
incarcerated parastomal hernia She was seen by Dr. ___. On 
___ she was taken to the operating room for  Laparoscopic 
reduction of parastomal hernia and translocation of the 
ileostomy with mesh reinforcement. Post-operatively she did 
well. She had output from the ileostomy. She did well over the 
next few days and voided after the foley catheter was removed. 
She was followed by the wound ostomy nursing team. She was 
discharged home meeting all discharge criteria. She was given 
appropriate discharge instruction. 

 
Medications on Admission:
___:  
 Symbicort 160mcg-4.5mcg/2puffs daily PRN  
 Etanercept (hold)  
 Levothyroxine 125mg'  
 Loratidine  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate 
do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol while taking 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC DAILY 
take for 26 more days 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*26 Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild 
do not drink alcohol or drive a car while taking 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
5.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate 
take with food, do not take for more than ___ days  
6.  Levothyroxine Sodium 125 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Incarcerated parastomal hernia with intestinal compromise.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.
___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.

If ___ have any of the following symptoms please call the office 
for advice ___:
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

___ will be discharged home on Lovenox injections to prevent 
blood clots after surgery. ___ will take this for 30 days after 
your surgery date. This will be given once daily. Please follow 
all nursing teaching instruction given by the nursing staff. 
Please monitor for any signs of bleeding: fast heart rate, 
bloody bowel movements, abdominal pain, bruising, feeling faint 
or weak. If ___ have any of these symptoms please call our 
office for advice or seek medical attention if there is an 
emergency. Avoid any contact activity while taking Lovenox. 
Please take extra caution to avoid falling.

 
Followup Instructions:
___